US07960369B2
(S)-4-[(2,3-dihydro-1H-inden-1-yl) oxy]benzenepropanoic acid
Methyl (S)-4-[(2,3-dihydro-1H-inden-1-yl) oxy]benzenepropanoate (4.4 g, 15 mmol) was dissolved in methanol (50 mL), 1N aqueous sodium hydroxide solution (25 mL) was added and the mixture was stirred at room temperature for 18.5 hrs. 1N Hydrochloric acid (25 mL) was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over sodium sulfate. The mixture was concentrated under reduced pressure and the obtained crystals were washed with hexane to give colorless crystals (4.2 g, 96% ee). The crystals were recrystallized from a mixed solvent of diisopropyl ether (70 mL) and hexane (70 mL) to give the title compound (2.3 g, 99.4% ee, yield 56%) as colorless crystals. As the secondary crystals, 0.67 g (yield 16%, 97% ee) of the title compound was obtained and as the tertiary crystals, 0.16 g (yield 4%, 92% ee) of the title compound was obtained.

reactant | Methyl (S)-4-[(2,3-dihydro-1H-inden-1-yl) oxy]benzenepropanoate | 15 mmol, 4.4 g | [C@@H]1(CCC2=CC=CC=C12)OC1=CC=C(C=C1)CCC(=O)OC | C19H20O3
reactant | sodium hydroxide | 1N, 25 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 25 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | (S)-4-[(2,3-dihydro-1H-inden-1-yl) oxy]benzenepropanoic acid | 2.3 g, yield 56% | [C@@H]1(CCC2=CC=CC=C12)OC1=CC=C(C=C1)CCC(=O)O | C18H18O3
